US04540693
A. 6,7,8,9-Tetrahydro-2-nitrophenazine
A mixture of 4-nitro-o-phenylenediamine (33.7 g, 0.22 mole) and 25.0 g (0.22 mole) of 1,2-cyclohexanedione in 500 ml of SDA#32 was heated at reflux for 24 hours. The reaction mixture was then stored overnight at room temperature and then filtered. The brown crystalline solid was then washed with ether, air dried, and dried to a consistent weight at 60°, m.p. 175°-178°. Yield: 22 g (96%).

reactant | 4-nitro-o-phenylenediamine | 0.22 mole, 33.7 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 1,2-cyclohexanedione | 0.22 mole, 25.0 g | C1(C(CCCC1)=O)=O | C6H8O2
product | 6,7,8,9-Tetrahydro-2-nitrophenazine | [N+](=O)([O-])C1=CC2=NC=3CCCCC3N=C2C=C1 | C12H11N3O2
